US07524845B2
A mixture of 1-[(S)-4-(4-Chloro-2-fluoro-5-methoxy-phenyl)-2-methyl-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone (2.2 g, 4.0 mmol, 1 eq), CuCN (3.6 g, 40 mmol, 10 eq), and DMF (25 ml) was stirred at 175° C. for 1 hrs. The reaction mixture was cooled to rt, diluted with ethyl acetate and filtered. The filtrate was washed with water, dried over Na2SO4, and purified by flash chromatography to provide 1-{2-[4-(4-Chloro-2-fluoro-5-methoxy-phenyl)-2-(S)-methyl-piperazin-1-yl]-2-oxo-ethyl}-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile (1.6 g).

reactant | 1-[(S)-4-(4-Chloro-2-fluoro-5-methoxy-phenyl)-2-methyl-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone | 4.0 mmol, 2.2 g, 1 eq | ClC1=CC(=C(C=C1OC)N1C[C@@H](N(CC1)C(CN1N=C(C=2C1=NC=CC2)I)=O)C)F | C20H20ClFIN5O2
reactant | CuCN | 40 mmol, 3.6 g, 10 eq | C(#N)[Cu]
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{2-[4-(4-Chloro-2-fluoro-5-methoxy-phenyl)-2-(S)-methyl-piperazin-1-yl]-2-oxo-ethyl}-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile | 1.6 g | ClC1=CC(=C(C=C1OC)N1C[C@@H](N(CC1)C(CN1N=C(C=2C1=NC=CC2)C#N)=O)C)F | C21H20ClFN6O2
